US04308052
Preparation of S-(o-Aminophenyl) 2-Oxo-3-Benzothiazolineethanethioate
The procedure of Example 1 was repeated utilizing o-aminobenzenethiol as the reactant in lieu of 2-mercaptoquinoline and tetrahydrofuran in lieu of acetone. Analytical data is summarized in Table I, below.

reactant | o-aminobenzenethiol | NC1=C(C=CC=C1)S | C6H7NS
reactant | 2-mercaptoquinoline | SC1=NC2=CC=CC=C2C=C1 | C9H7NS
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | acetone | CC(=O)C | C3H6O
product | S-(o-Aminophenyl) 2-Oxo-3-Benzothiazolineethanethioate | O=C1SC2=C(N1CC(SC1=C(C=CC=C1)N)=O)C=CC=C2 | C15H12N2O2S2
